US06809100B2
4-(R)-Benzyl-3-(2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyryl)oxazolidin-2-one
5-(4-Fluorophenyl)-2-piperazin-1-ylpyrimidine dihydrochloride (0.57 g) was added to a solution of 4-(R)-benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)-oxazolidin-2-one (0.77 g) in dichloromethane (20 ml) followed by triethylamine (0.84 ml), and the mixture stirred at room temperature for 18 h. The solvent was evaporated under reduced pressure, and the residue dissolved in ethyl acetate (40 ml) and washed with 10% citric acid (2×20 ml), water (20 ml), saturated sodium bicarbonate solution (20 ml), water (20 ml), saturated brine (20 ml), dried (Na2SO4) and evaporated. The resultant residue was then purified by silica gel column chromatography with 3.5% diethyl ether/dichloromethane as eluent to provide the title compound as a white solid (0.70 g, 69%).

reactant | 5-(4-Fluorophenyl)-2-piperazin-1-ylpyrimidine dihydrochloride | 0.57 g | Cl.Cl.FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCNCC1
reactant | 4-(R)-benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)-oxazolidin-2-one | 0.77 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)Cl)=O | C16H20ClNO5S
reactant | triethylamine | 0.84 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(R)-Benzyl-3-(2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyryl)oxazolidin-2-one | 0.70 g, 69% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)F)=O | C30H34FN5O5S
